US07064116B2
4[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-one
Pyridinium chlorochromate (22 mg, 0.10 mmol) was added to anhydrous methylene chloride (1 mL) and to the resulting mixture was added a solution of 4[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-ol (30 mg, 0.053 mmol) in dichloromethane (2.5 mL) and the resulting mixture was stirred for 3 h at RT. Subsequently the mixture was fitered through florisil, washed with ether and the solvent was removed in vavuo. Purification of the residue using flash column chromatography, petroleum ether/ethyl acetate 97/3 elution solvent, afforded the product mentioned above.

reactant | Pyridinium chlorochromate | 0.10 mmol, 22 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 4[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-ol | 0.053 mmol, 30 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C#CC(C)O | C39H54O2Si
reactant | florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 4[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C#CC(C)=O | C39H52O2Si
